US05686560
Preparation of 4-(4-Fluorophenyl)-2-quinazolone
4'-Fluoro-2-aminobenzophenone (164.5 g, 1.20 mol) is heated with urea (72.09 g, 0.500 mol) at 195° C. (1 h) in NMP (500 mL). The solution is cooled and poured into water (2 L). The product is collected by filtration and dried. The product is purified by recrystallization.

reactant | 4'-Fluoro-2-aminobenzophenone | 1.20 mol, 164.5 g | FC1=CC=C(C=C1)C(C1=C(C=CC=C1)N)=O | C13H10FNO
reactant | urea | 0.500 mol, 72.09 g | NC(=O)N | CH4N2O
reactant | water | 2 L | O | H2O
solvent | NMP | 500 mL | CN1CCCC1=O | C5H9NO
product | 4-(4-Fluorophenyl)-2-quinazolone | FC1=CC=C(C=C1)C1=NC(NC2=CC=CC=C12)=O | C14H9FN2O
